US06797718B2
tert-butyl 2-(benzyloxy)ethylcarbamate
To a mechanically stirred mixture of tert-butyl 2-(hydroxy)ethylcarbamate (32.2 g, 200.4 mmol) and sodium hydroxide (300 mL of 50%) was added benzyltrimethylammonium chloride (3.79 g, 20.4 mmol) and benzyl bromide (23.8 mL, 200.4 mmol). After stirring at room temperature for 12 hours TLC monitoring, using 1/1 hexane/ethyl acetate and ninhydrin stain, indicated complete reaction. The resulting clear solution was diluted with ice water (1 L), and the organic layer was separated. The aqueous layer was washed with chloroform (4×). The organic layers were combined and washed with water (2×) and brine (2×), dried with sodium sulfate, and concentrated under reduced pressure to provide 45.4 g of clear liquid. NMR analysis confirmed the product, which was used in the next step.

reactant | tert-butyl 2-(hydroxy)ethylcarbamate | 200.4 mmol, 32.2 g | OCCNC(OC(C)(C)C)=O | C7H15NO3
reactant | sodium hydroxide | 300 mL | [OH-].[Na+]
reactant | benzyl bromide | 200.4 mmol, 23.8 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
catalyst | benzyltrimethylammonium chloride | 20.4 mmol, 3.79 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | tert-butyl 2-(benzyloxy)ethylcarbamate | 45.4 g | C(C1=CC=CC=C1)OCCNC(OC(C)(C)C)=O | C14H21NO3
